US05026858
A mixture of N-(1-benzylpiperid-4-yl)-2-acetoxy-4-acetamido-5-nitrobenzamide (1.4 g; 0.0031 moles) [prepared by the procedure described in Example 1], sodium hydroxide (0.3 g; 0.0062 moles), water (25 ml) and ethanol (12.5 ml) was boiled under reflux for 3 hours. Then the mixture was diluted with water, neutralized with diluted hydrochloric acid and the solid filtered off, washed with water and diethyl ether to give 1.1 g of N-(1-benzylpiperid-4-yl)-2-hydroxy-4-acetamido-5-nitrobenzamide, m.p. 220°-222° C.

reactant | N-(1-benzylpiperid-4-yl)-2-acetoxy-4-acetamido-5-nitrobenzamide | 0.0031 moles, 1.4 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C(=C1)[N+](=O)[O-])NC(C)=O)OC(C)=O)=O | C23H26N4O6
reactant | sodium hydroxide | 0.0062 moles, 0.3 g | [OH-].[Na+]
reactant | ethanol | 12.5 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 25 ml | O | H2O
product | N-(1-benzylpiperid-4-yl)-2-hydroxy-4-acetamido-5-nitrobenzamide | 1.1 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C(=C1)[N+](=O)[O-])NC(C)=O)O)=O | C21H24N4O5
